US07323447B2
Step 1: Preparation of N-tert-butyl-(1-allyl)cyclopropylsulfonamide
This compound was obtained in 97% yield according to the procedure described in the synthesis of N-tert-butyl-(1-methyl)cyclopropylsulfonamide except 1.25 equivalents of allyl bromide were used as electrophile. The compound was taken directly into the next reaction without purification: 1H NMR (CDCl3) δ 0.83 (m, 2H), 1.34 (s, 9H), 1.37 (m, 2H), 2.64 (d, J=7.3 Hz, 2H), 4.25 (br s, 1H), 5.07-5.10 (m, 2H), 6.70-6.85 (m, 1H).

reactant | N-tert-butyl-(1-methyl)cyclopropylsulfonamide | C(C)(C)(C)NS(=O)(=O)C1(CC1)C | C8H17NO2S
reactant | allyl bromide | 1.25 equivalents | C(C=C)Br | C3H5Br
product | N-tert-butyl-(1-allyl)cyclopropylsulfonamide | 97% yield | C(C)(C)(C)NS(=O)(=O)C1(CC1)CC=C | C10H19NO2S
